US06479706B1
Ethyl-aniline is methylated by reductive alkylation with formaldehyde using isopropyl alcohol as a solvent at 100° C. under 120 psi of H2. After the solvent is stripped the product ethylmethylaniline (NEMA) is purified by distillation at 120° C. at a pressure of 21 mm mercury (Hg). NEMA (80 g, 0.59 mol) is charged to a vessel fitted with a dry-ice condenser and is heated to 50-60° C. Phosgene is transferred from a cylinder to a calibrated trap placed in dry-ice. After condensing 10 mL (14.3 g, 0.145 mol), the trap was connected to the vessel containing NEMA and the phosgene was added over 1 hour. After the addition was complete, the mixture was heated to 120° C. and held at this temperature for 1 hour. The mixture was cooled to 50-60° C. before 11 g (0.275 mol) of NaOH dissolved in 100 mL of water was added to hydrolyze the unreacted acid chloride. The resulting mixture was then extracted with two 100 mL portions of toluene. The product 4,4′-bis(methylethylamino)benzophenone (MEAB) was purified by chromatography on silica gel using toluene as an eluent followed by recrystallization from methylene chloride/hexane. Several grams of highly pure MEAB were obtained. No impurities were detectable by NMR; m.p. 122-124° C. NMR, IR and mass spectra were consistent with the proposed structure.

reactant | Ethyl-aniline | C(C)NC1=CC=CC=C1 | C8H11N
reactant | formaldehyde | C=O | CH2O
reactant | ethylmethylaniline | C(C)N(C1=CC=CC=C1)C | C9H13N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | NaOH | 0.275 mol, 11 g | [OH-].[Na+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | 100 mL | O | H2O
product | 4,4′-Bis(methylethylamino)benzophenone | CN(C1=CC=C(C(=O)C2=CC=C(C=C2)N(CC)C)C=C1)CC | C19H24N2O
